US09079853B2
1-isopentyl-5-methylindoline-2,3-dione
Made in an analogous fashion to 1-propylindoline-2,3-dione using commercially available 5-methyl isatin (purchased from Fisher Scientific) and 1-bromo-3-methylbutane (purchased from Fisher Scientific). 1H NMR δ 7.41 (m, 2H), 6.78 (d, 1H), 3.71 (t, 2H), 2.33 (s, 3H), 1.57 (m, 3H), 0.99 (d, 6H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-methyl isatin | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
product | 1-isopentyl-5-methylindoline-2,3-dione | C(CC(C)C)N1C(C(C2=CC(=CC=C12)C)=O)=O | C14H17NO2
